US07157447B2
(2,2-Diethoxyethyl)(o-tolyl)sulfane.
In ethanol (50 mL) was dissolved sodium metal (1.6 g, 66 mmol) at 23° C. 2-Methylbenzenethiol (8.1 mL, 68 mmol) was slowly added to this solution, followed by bromoacetaldehyde diethylacetal (9.50 mL, 63 mmol). The reaction mixture was stirred at reflux for 18 h. The solvent was then evaporated in vacuo and the residue was washed with H2O (100 mL) and extracted with ether (100 mL). The organic solution was dried (MgSO4), concentrated in vacuo and purified by distillation to afford the title compound (13.48 g, 82% yield): 1H NMR (400 MHz, CDCl3) δ ppm: 7.33 (1H, d, J=7.9 Hz), 7.16–7.08 (3H, m), 4.65 (1H, t, J=5.6 Hz), 3.66 (2H, q, J=7.0 Hz), 3.55 (2H, q, J=7.0 Hz), 3.09 (2H, d, J=5.6 Hz), 2.38 (3H, s), 1.20 (6H, t, J=7.0 Hz). LCMS (M+H)+ m/z 241 (t=2.65 min.).

reactant | sodium | 66 mmol, 1.6 g | [Na] | Na
reactant | 2-Methylbenzenethiol | 68 mmol, 8.1 mL | CC1=C(C=CC=C1)S | C7H8S
reactant | bromoacetaldehyde diethylacetal | 63 mmol, 9.50 mL | C(C)OC(CBr)OCC | C6H13BrO2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | (2,2-Diethoxyethyl)(o-tolyl)sulfane | 13.48 g, 82% yield | C(C)OC(CSC1=C(C=CC=C1)C)OCC | C13H20O2S
